US09120749B2
{6-Bromo-4-[4-(2-(dimethylamino)-1-hydroxyethyl)phenylamino]quinolin-3-yl}(cyclopropyl)methanone
Following general procedure C, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (240 mg, 0.770 mmol) was reacted with 1-(4-aminophenyl)-2-(dimethylamino)ethanol (139 mg, 0.770 mmol) to afford the desired product (187 mg, 53%) as a yellow solid: ESI MS m/z 454 [C23H24BrN3O2+H]+.

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 0.770 mmol, 240 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | 1-(4-aminophenyl)-2-(dimethylamino)ethanol | 0.770 mmol, 139 mg | NC1=CC=C(C=C1)C(CN(C)C)O | C10H16N2O
product | {6-Bromo-4-[4-(2-(dimethylamino)-1-hydroxyethyl)phenylamino]quinolin-3-yl}(cyclopropyl)methanone | 187 mg, 53% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1=CC=C(C=C1)C(CN(C)C)O | C23H24BrN3O2
